US20010014679A1
2,4-Diamino-5-(4-benzyloxyphenoxy)quinazoline (3.6 g, 10 mmol) was heated at 50-60° C. under 4 atmospheres of hydrogen gas in the presence of 0.36 g of 10% palladium on carbon in 80 mL of N,N-dimethylacetamide. After 4 hours the reaction mixture was filtered through silica gel in a fritted glass funnel, concentrated, dissolved in 50 mL of 2-propanol and allowed to crystallize at 4° C. The precipitate was collected by vacuum filtration, washed with 2-propanol and dried at 50° C under vacuum to give 2.3 g (85.2% yield) of 2,4-diamino-5(4-hydroxyphenoxy)quinazoline, mp 330-341° C. (dec).

reactant | 2,4-Diamino-5-(4-benzyloxyphenoxy)quinazoline | 10 mmol, 3.6 g | NC1=NC2=CC=CC(=C2C(=N1)N)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H18N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.36 g | [Pd] | Pd
solvent | N,N-dimethylacetamide | 80 mL | CN(C(C)=O)C | C4H9NO
product | 2,4-diamino-5(4-hydroxyphenoxy)quinazoline | 2.3 g, 85.2% yield | NC1=NC2=CC=CC(=C2C(=N1)N)OC1=CC=C(C=C1)O | C14H12N4O2
